US08735444B2
2-Fluoro-N-methyl-N-trifluoroacetyl-5-nitroaniline (32-NO2-Me):
To a solution of compound 32-NO2—H (13.9 g, 55.2 mmol) and MeI (14.8 g, 0.104 mol) in DMF (80 mL), K2CO3 (12.5 g, 90.6 mmol) was added. After vigorous stirring for 24 h at 90° C., volatile materials were evaporated in vacuum. The residue was diluted with water (200 mL), the organic layer was separated, and the aqueous layer was extracted with ether (3×100 mL). Combined organic solutions were dried, and the solvent was evaporated at an ambient pressure (bath temperature 50° C.). The title compound was isolated by chromatography on SiO2 (600 g) with hexane/EtOAc mixture (1:0→1:1) as an eluent; yellowish oil (13.6 g, purity ca. 90%, yield 83%). 1H NMR (CDCl3, 300 MHz, ppm): δ=3.36 (s, 3 H, CH3), 7.39 (t, 3JHH=JHF=8.8, 1H, H-3), 8.25 (dd, 4JHH=2.6, 4JHF=6.5, 1H, H-6), 8.32-8.38 (m, 1H, H-4); EI-MS: m/z (rel. int., %)=266 (100) [M], 197 (57) [M-CF3], 184 (32), 170 (23), 123 (37), 110 (18).

reactant | 2-Fluoro-5-nitro-N-trifluoroacetylaniline | 55.2 mmol, 13.9 g | FC1=C(NC(C(F)(F)F)=O)C=C(C=C1)[N+](=O)[O-] | C8H4F4N2O3
reactant | MeI | 0.104 mol, 14.8 g | CI | CH3I
reactant | K2CO3 | 90.6 mmol, 12.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-N-methyl-N-trifluoroacetyl-5-nitroaniline | yield 83% | FC1=C(N(C(C(F)(F)F)=O)C)C=C(C=C1)[N+](=O)[O-] | C9H6F4N2O3
